US04845219
To 40 ml of a methanol solution of sodium methoxide (1 M solution) are added 3.1 g of 4-mercaptobutanol and 0.5 g of sodium borohydride, to which is added dropwise a solution of 4.36 g of 2-methoxy-3-octadecyloxypropyl methanesulfonate in 40 ml of tetrahydrofuran at room temperature with stirring. The mixture is stirred at room temperature for 14 hours and then at 40° C. for 1.5 hours. The solvent is distilled off under reduced pressure and the residue is acidified with hydrochloric acid and extracted with hexane. The extract layer is washed with water, dried and concentrated to leave crude 2-methoxy-3-octadecyloxypropyl 4-hydroxybutyl sulfide. This sulfide is dissolved in 75 ml of dichlromethane, to which 7.6 g of m-chloroperbenzoic acid is added little by little at room temperature with stirring. The mixture is then stirred at room temperature for 1 hour and is filtered to remove precipitates. The filtrate is washed with an aqueous sodium sulfite solution, an aqueous sodium bicarbonate solution and water, dried and concentrated to leave a residue which in turn is purified by silica gel column chromatography to obtain 2.5 g of the captioned compound.

reactant | sodium methoxide | 1 M | C[O-].[Na+]
reactant | 4-mercaptobutanol | 3.1 g | SCCCCO | C4H10OS
reactant | sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | 2-methoxy-3-octadecyloxypropyl methanesulfonate | 4.36 g | CS(=O)(=O)OCC(COCCCCCCCCCCCCCCCCCC)OC | C23H48O5S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | methanol | 40 ml | CO | CH4O
product | 2-methoxy-3-octadecyloxypropyl 4-hydroxybutyl sulfide | OCCCCSCC(COCCCCCCCCCCCCCCCCCC)OC | C26H54O3S
